US04323691
Ethyl 2,3-Dichloro-4-(4'-hydroxybenzoyl)phenoxyacetate
85.38 g. (0.25 mole) of 2,3-dichloro 4-(4'-hydroxybenzoyl)-phenoxyacetic acid, 34.5 g. (0.75 mole) of ethanol, and 100 ml. of ethylene dichloride, using 3.5 ml. of sulfuric acid as the catalyst were mixed and refluxed with stirring overnight according to the procedure of Clinton and Laskowski, J.A.C.S. 70 3135, 1948. The acid gradually went into solution. The reaction layer was cooled, separated and the organic layer washed successively with water, twice with KHCO3 solution and finally with water. The dried ethylene dichloride was evaporated to dryness to give an oil which solidified to give 86 g. crude ester on trituration with pentane and filtering; m.p. 127°-9° (93% yield). This material was used without further purification in subsequent experiments.

reactant | 2,3-dichloro 4-(4'-hydroxybenzoyl)-phenoxyacetic acid | 0.25 mole | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C1=CC=C(C=C1)O)=O | C15H10Cl2O5
reactant | ethanol | 0.75 mole | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | Ethyl 2,3-Dichloro-4-(4'-hydroxybenzoyl)phenoxyacetate | 93% yield | ClC1=C(OCC(=O)OCC)C=CC(=C1Cl)C(C1=CC=C(C=C1)O)=O | C17H14Cl2O5
